US09387204B2
Step2: 4-(5-Bromo-imidazo[2,1-b]thiazol-6-yl)-benzaldehyde
4-Imidazo[2,1-b]thiazol-6-yl-benzaldehyde (3.8 g, 14.9 mM) is dissolved in 30 mL acetic acid. A solution of bromine (1.1 eq) in acetic acid (15 mL) is added to the reaction mixture. The reaction mixture is stirred for 3 h at room temperature. The solid obtained is collected by filtration and re-dissolved in water (100 ml) and the solution neutralized by aqueous ammonia. The solid obtained is collected by filtration and dried.

reactant | 4-Imidazo[2,1-b]thiazol-6-yl-benzaldehyde | 14.9 mM, 3.8 g | S1C=2N(C=C1)C=C(N2)C2=CC=C(C=O)C=C2 | C12H8N2OS
reactant | bromine | 1.1 eq | BrBr | Br2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-(5-Bromo-imidazo[2,1-b]thiazol-6-yl)-benzaldehyde | BrC1=C(N=C2SC=CN21)C2=CC=C(C=O)C=C2 | C12H7BrN2OS
